US07585874B2
a) 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid
As described for Example 11a, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (2.0 g, 6.0 mmol), instead of 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester, was converted to the title compound (1.7 g, 90%) which was obtained as a yellow solid. MS: m/e=318.4 [M−H]−.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 6.0 mmol, 2.0 g | COC(=O)C=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | COC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid | 1.7 g, 90% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)C(=O)O)C1 | C18H13N3O3
